US05866684
49 mg (0.046 mmol) of N2-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-N1-[1(S)-(dimethoxymethyl)-3-pentynyl]-L-leucinamide were dissolved in 4 ml of trifluoroacetic acid/dichloromethane (1:1) containing3 drops of water and the solution was stirred for 1 hour under a nitrogen atmosphere. The solution was evaporated to dryness under a vacuum and the residue was re-evaporated twice with toluene. The solid was triturated with 10 ml of diethyl ether to give 30 mg of 2(S)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-4-hexynal as a white solid; MS: m/e 843.6 [M+H]+.

reactant | N2-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-N1-[1(S)-(dimethoxymethyl)-3-pentynyl]-L-leucinamide | 0.046 mmol, 49 mg | C(C)(C)(C)OC(=O)CCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC#CC)C(OC)OC | C55H88N6O14
solvent | trifluoroacetic acid dichloromethane | 4 ml | FC(C(=O)O)(F)F.ClCCl
solvent | water | O | H2O
product | 2(S)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-4-hexynal | 30 mg | C(=O)(O)CCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@H](C=O)CC#CC | C41H58N6O13
